US07030141B2
Step 3: 2-(2′-Methylsulfanyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
2-(4-Bromo-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (2.57 g, 6.9 mmol), 2-(methylthio)benzene boronic acid (1.4 g, 8.3 mmol), and tetrabutylammonium bromide (110 mg, 0.33 mmol) were combined in 30 mL toluene, added 6.9 mL of a 2M aqueous Na2CO3 solution followed by tetrakistriphenylphosphine palladium(0) (0.40 g, 0.34 mmol). Heated reaction at reflux overnight, cooled, concentrated, redissolved in EtOAc (250 mL), washed with water (3×200 mL), brine (200 mL), dried with MgSO4, filtered, and concentrated. Purified on a silica gel column eluted with 20% moving to 40% EtOAc in hexanes. Combined and concentrated pure fractions to yield title compound. (1.75 g, 60%) APCI (AP−): 411.1 (M−H)−.

reactant | 2-(4-Bromo-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 6.9 mmol, 2.57 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=CC=C(C=C1)Br)=O | C16H21BrN2O3
reactant | 2-(methylthio)benzene boronic acid | 8.3 mmol, 1.4 g | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrabutylammonium bromide | 0.33 mmol, 110 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2′-Methylsulfanyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=CC=C(C=C1)C1=C(C=CC=C1)SC)=O | C23H28N2O3S
